US06387975B1
A dried flask made of Pyrex glass (capacity of 500 ml) provided with a reflux condenser was charged with an inert gas to purge the air from theflask. Then, metallic magnesium (4.65 g) and anhydrous diethyl ether (100 ml) were fed to the flask, and the resulting solution was stirred and cooled by ice bath. A solution prepared separately by adding anhydrous diethylether (50 ml) to 1-bromo-3,5-difluorobenzene (43.52 g) was added dropwise thereto over one hour, and the resulting solution was left still for three hours. At the end of the reaction, a liquid containing boron trifluorideethercomplex (4.542 g) in anhydrous diethyl ether was added dropwise over 40 minutes, and left still for 16 hours with stirring at the room temperature. Then, an aqueous solution of sodium carbonate (30 g) in pure water (100 g) was dropped with 30 minutes. After the solution was kept stirring at the room temperature for 24 hours, the water phase and the organic phase were separated from each other. The separated organic phase was dried with sodium sulfate and filtered; the filtrate was put into an evaporator (oil bath temperature: 70° C.); and diethyl ether was evaporated, thereby obtaining a liver-brown colored solid. The liver-brown colored solid was further purified with silica gel, and a white solid of tetrakis(3,5-difluorophenyl)borate sodium salt (10.3 g) was obtained.

reactant | 1-bromo-3,5-difluorobenzene | 43.52 g | BrC1=CC(=CC(=C1)F)F | C6H3BrF2
reactant | boron | 4.542 g | [B] | B
reactant | sodium carbonate | 30 g | C([O-])([O-])=O.[Na+].[Na+]
solvent | diethyl ether | C(C)OCC | C4H10O
solvent | water | 100 g | O | H2O
solvent | diethylether | 50 ml | C(C)OCC | C4H10O
product | tetrakis(3,5-difluorophenyl)borate sodium salt | 10.3 g | [Na+].FC=1C=C(C=C(C1)F)[B-](C1=CC(=CC(=C1)F)F)(C1=CC(=CC(=C1)F)F)C1=CC(=CC(=C1)F)F | InChI=1S/C24H12BF8.Na/c26-17-1-13(2-18(27)9-17)25(14-3-19(28)10-20(29)4-14,15-5-21(30)11-22(31)6-15)16-7-23(32)12-24(33)8-16;/h1-12H;/q-1;+1
